US04298527
Synthesis of 1-naphthyl (methyl)(phenylthiosulfinyl)carbamate
To a solution of 1-naphthyl methylcarbamate (4.0 g, 0.02 mol) in 20 ml dry tetrahydrofuran was added 1.9 g pyridine (0.024 mol) and 2.5 g thionyl chloride (0.021 mol). The mixture was stirred at room temperature for 6 hours. The reaction mixture was cooled in an ice-water bath and 1.9 g pyridine was added followed by 2.2 g benzenethiol (0.02 mol) added dropwise. Stirring was continued for an additional 1 hour and the mixture was worked up in the usual manner as previously described in Example I. A sample was purified by preparative thin-layer chromatography. Nmr spectrum of the pure product in chloroform-d-TMS showed the following absorptions: δ8.1-6.9 (m, 12H, aromatic protons), 3.2 (s, 3H, NCH3).

reactant | 1-naphthyl methylcarbamate | 0.02 mol, 4.0 g | CNC(OC1=CC=CC2=CC=CC=C12)=O | C12H11NO2
reactant | pyridine | 0.024 mol, 1.9 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.021 mol, 2.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 1.9 g | N1=CC=CC=C1 | C5H5N
reactant | benzenethiol | 0.02 mol, 2.2 g | C1(=CC=CC=C1)S | C6H6S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-naphthyl (methyl)(phenylthiosulfinyl)carbamate | CN(C(OC1=CC=CC2=CC=CC=C12)=O)S(=S)C1=CC=CC=C1 | C18H15NO2S2
